US04564613
3-(Isopropylaminoethyl)-8-methyl-6-phenyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole
2.1 g (0.00604 mol) of 3-(isopropylaminoethyl)-8-methyl-6-phenyl-6,7,8,9-tetrahydro-1H-pyrido[4,3-g]-indole are dissolved in 25 ml (0.3275 mol) of trifluoroacetic acid, with stirring and in the absence of moisture, and a solution of 1.76 g (0.0241 mol) of trimethylaminoborane in 10 ml of tetrahydrofuran is then added dropwise at a temperature of 0°-+2° C. The mixture is subsequently stirred at 0° C. for 1 hour, a solution of 1.76 g (0.0241 mol) of trimethylamonoborane in 10 ml of tetrahydrofuran is then again added and the mixture is subsequently stirred for 2.5 hours. 150 ml of H2O are now added to the reaction mixture, the mixture is brought to pH 13 with NaOH and the oily product which deposits is extracted with CH2Cl2. The CH2Cl2 phase is washed with H2O, dried over Na2SO4 and then freed from the solvent on a rotary evaporator. The residue is chromatographed twice on silica gel (silica gel 60 from E. Merck, Darmstadt). Eluent: initially CH2Cl2 /MeOH/N(C2H5)3 (15:4:0.25), then diethyl ether/MeOH/N(C2H5)3 (15:3:0.25).

reactant | 3-(isopropylaminoethyl)-8-methyl-6-phenyl-6,7,8,9-tetrahydro-1H-pyrido[4,3-g]-indole | 0.00604 mol, 2.1 g | C(C)(C)NCCC1=CNC2=C3C(=CC=C12)C(CN(C3)C)C3=CC=CC=C3 | C23H29N3
reactant | trifluoroacetic acid | 0.3275 mol, 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | H2O | 150 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(Isopropylaminoethyl)-8-methyl-6-phenyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole | C(C)(C)NCCC1CNC2=C3C(=CC=C12)C(CN(C3)C)C3=CC=CC=C3 | C23H31N3
